US06320050B1
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.31M stock solution, 7.13 mmol) cooled to −78° C. was treated with (4-trifluoromethoxy-phenyl)-acetic acid (0.74 g, 3.39 mmol) in tetrahydrofuran/ 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8.5 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (0.78 g, 3.73 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 18 h. The reaction mixture was then quenched by the dropwise addition of saturated aqueous ammonium chloride solution (10 mL). The resulting mixture was concentrated in vacuo to remove the excess solvent. The residue was diluted with water (100 mL) and acidified to pH=1 with a 1N aqueous hydrochloric acid solution. This solution was extracted with ethyl acetate (3×50 mL). The organics were washed with a saturated aqueous lithium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-trifluoromethoxy-phenyl)-propionic acid (0.31 g, 30.6%) as a tan solid: mp 62-64° C.; EI-HRMS m/e calcd for C15H17F3O3 (M+) 302.1129 found 302.1131.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-trifluoromethoxy-phenyl)-acetic acid | 3.39 mmol, 0.74 g | FC(OC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O3
reactant | iodomethylcyclopentane | 3.73 mmol, 0.78 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8.5 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(4-trifluoromethoxy-phenyl)-propionic acid | 0.31 g, 30.6% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C15H17F3O3
